Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-7.33958217235
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.03627528024
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:8],4.39812090522
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.35871802727
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7974908831799998
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.99070722622
[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[C:3]([H:4])[H:5].[O:1]=[C:2],4.6356392716000006
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.05872896439
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],1.3531727087399998
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.5675747597
[C:1]#[C:2][O:4][C:5][C:6](=[O:7])[H:8].[H:3]>>[C:1]=[C:2]([H:3])[O:4][C:5][C:6](=[O:7])[H:8],-3.6019030916
[H:1][C:2]([C:3][O:4][C:5][H:6])=[C:7][H:8]>>[H:1][c:2]1[c:3][o:4][c:5]([H:6])[c:7]1[H:8],-5.917463797640001
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.9300625930600015
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.39684077631
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10],3.38118911584
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12],2.0334622552
[C:4][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.76440136051
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:11][H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],8.60024240973
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-4.87517440671
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13],4.8093152561400005
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.58246382201
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],4.920317477809999
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]=[C:9]([H:10])[H:11])[O:12][H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13],-1.73755164803
[H:1][C:2]=[C:3]([H:4])[H:5]>>[C:3]([H:4])[H:5].[H:1][C:2],9.18656254369
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.36161542692
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.4067280134400004
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],1.53346833701
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.60764484755
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-6.57169049145
